US05643908
4-(S)-Benzyloxycarbonylamino-5-methyl-3-oxohexane (61 mg), prepared in Referential Example 15, was dissolved in tetrahydrofuran (2.0 ml) and catalytically reduced by stirring for 40 minutes under an atmosphere of hydrogen in the presence of 10% palladium on charcoal (6 mg). After the catalyst had been filtered off, the filtrate was concentrated under reduced pressure to yield 4-(S)-amino-5-methyl-3-oxohexane as a crude product.

reactant | 4-(S)-Benzyloxycarbonylamino-5-methyl-3-oxohexane | 61 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CC)=O)C(C)C | C15H21NO3
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 6 mg | [Pd] | Pd
product | 4-(S)-amino-5-methyl-3-oxohexane | N[C@H](C(CC)=O)C(C)C | C7H15NO
